US06610692B1
Step C: 3-Chloro-5-aminomethylindole:
To a solution of 3-chloro-5-(t-butoxycarbonylaminomethyl)-indole (2.62 g, 9.33 mmol) in CH2Cl2 (25 mL), cooled to 0° C. was added trifluoroacetic acid (10 mL). After 1 h the reaction was basified with aqueous NaOH (1 N) to pH=10, extracted with CH2Cl2 (3×) and then with CH2Cl2:MeOH (3:1). The combined organics were dried over MgSO4, filtered, and concentrated in vacuo. Purification of the resulting orange residue by flash chromatography (30×150 mm column; gradient elution with MeOH:CH2Cl2:CH2Cl2 saturated with NH3, 4:66:30 to 10:60:30 500 mL each) afforded the title compound as a yellow oil:

reactant | 3-chloro-5-(t-butoxycarbonylaminomethyl)-indole | 9.33 mmol, 2.62 g | ClC1=CNC2=CC=C(C=C12)CNC(=O)OC(C)(C)C | C14H17ClN2O2
reactant | trifluoroacetic acid | 10 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | CH2Cl2 | 25 mL | C(Cl)Cl | CH2Cl2
product | 3-Chloro-5-aminomethylindole | ClC1=CNC2=CC=C(C=C12)CN | C9H9ClN2
